US06225316B1
e) N-(3,5-Bis-trifluoromethyl-benzyl)-5-(2-chloro-phenyl)-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide
To a solution of 0.074 g (0.21 mmol) 5-(2-chloro-phenyl)-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide in 5 ml tetrahydrofuran at −10° C. were added dropwise 0.29 ml (0.29 mmol) of 1 M potassium hexamethyldisilazide solution in tetrahydrofuran. Stirring was continued for ½ h at −10° C. At this temperature 0.42 ml 3.5-bis(trifluormethyl)-benzylbromide were added. The reaction was quenched with water after 10 min and the mixture was extracted with three 15 ml portions of ethyl acetate. The combined organic layers were washed with brine, dried (magnesium sulfate) and evaporated. Chromatography of the residue afforded 0.113 g (92%) of the title compound as a pale yellow oil.

reactant | 5-(2-chloro-phenyl)-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide | 0.21 mmol, 0.074 g | ClC1=C(C=CC=C1)C1=CN=C(C=C1C(=O)NC)N1CCN(CC1)C | C18H21ClN4O
reactant | potassium hexamethyldisilazide | 0.29 mmol, 1 M, 0.29 ml | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 3.5-bis(trifluormethyl)-benzylbromide | 0.42 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(3,5-Bis-trifluoromethyl-benzyl)-5-(2-chloro-phenyl)-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide | 0.113 g, 92% | FC(C=1C=C(CN(C(C2=CC(=NC=C2C2=C(C=CC=C2)Cl)N2CCN(CC2)C)=O)C)C=C(C1)C(F)(F)F)(F)F | C27H25ClF6N4O
